US04861769
Phosphorous oxychloride (0.31 ml) was added to a mixture of N,N-dimethylformamide (0.25 ml) and ethyl acetate (1 ml) under ice-cooling. The mixture was stirred at the same temperature for 10 minutes to give a suspension. To the suspension was added 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetic acid (syn isomer) (1.18 g) and tetrahydrofuran (15 ml) and the mixture was stirred under ice-cooling for 30 minutes to give an activated acid solution. On the other hand, to a suspension of 1- [(7β-amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride (1.3 g) in tetrahydrofuran (20 ml) was added N-trimethylsilyl-acetamide (8.5 g). The suspension was stirred at ambient temperature for an hour to give a clear solution. To the solution was added the activated acid solution prepared above at -30° C. and the mixture was stirred at -20° C. to -5° C. for 30 minutes and under ice-cooling for an hour. The mixture was poured into ethyl acetate (300 ml) to give precipitates. The precipitates were collected. To the precipitates was added a mixture of anisole (14 ml) and trifluoroacetic acid (4.3 ml) under ice-cooling. The mixture was stirred for 1.5 hours at ambient temperature. The mixture was concentrated in vacuo and poured into ice-water (50 ml). The mixture was adjusted to pH 5 with saturated aqueous solution of sodium bicarbonate. The aqueous solution was washed with ethyl acetate and subjected to column chromatography on a non-ionic adsorption resin "Diaion HP-20" (30 ml). After the column was washed with water, the elution was carried out with 2% isopropyl alcohol. The fractions containing the object compound were collected, combined, evaporated to remove isopropyl alcohol in vacuo, and finally lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol- 3-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate (syn isomer)(260 mg).

reactant | Phosphorous oxychloride | 0.31 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-cyclopropyloxyimino-2-(5-tritylamino-1,2,4-thiadiazol-3-yl)acetic acid | 1.18 g | C1(CC1)ON=C(C(=O)O)C1=NSC(=N1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22N4O3S
reactant | 1- [(7β-amino-4-carboxy-3-cephem-3-yl)methyl]pyridinium chloride hydrochloride | 1.3 g | Cl.[Cl-].N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)O)C1=O
reactant | N-trimethylsilyl-acetamide | 8.5 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
product | 7β-[2-(5-amino-1,2,4-thiadiazol- 3-yl)-2-(cyclopropyloxyimino)acetamido]-3-(1-pyridinio)methyl-3-cephem-4-carboxylate | 260 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=NOC1CC1 | C20H19N7O5S2
